US05739345
5-[4-(1-t-Butoxycarbonylindolin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione
A solution of 6.6 g of 1,1'-(azodicarbonyl)dipiperidine in 10 ml of anhydrous tetrahydrofuran and 20 ml of anhydrous dimethylformamide was added dropwise to a mixture of 6.5 g of 1-t-butoxycarbonyl-2-hydroxymethylindoline (prepared as described in preparation 3), 6.5 ml of tributylphosphine, 12.2 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione [prepared as described in European Patent Publication No. 549 365A1] and 100 ml of anhydrous tetrahydrofuran, and the resulting mixture was stirred at room temperature for about 20 hours. At the end of this time, insoluble materials were filtered off and the filtrate was concentrated by evaporation under reduced pressure. The concentrate thus obtained was purified by column chromatography through silica gel, using a 10:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 3.70 g of the title compound, melting at 85.4°-87.2° C.

reactant | 1,1'-(azodicarbonyl)dipiperidine | 6.6 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 1-t-butoxycarbonyl-2-hydroxymethylindoline | 6.5 g | C(C)(C)(C)OC(=O)N1C(CC2=CC=CC=C12)CO | C14H19NO3
reactant | tributylphosphine | 6.5 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 12.2 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-[4-(1-t-Butoxycarbonylindolin-2-ylmethoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 3.70 g | C(C)(C)(C)OC(=O)N1C(CC2=CC=CC=C12)COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C43H40N2O5S
